US07595398B2
(2S,3S)-2-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-3-hydroxy-pyrrolidine-1-carboxylic acid benzyl ester (Compound 5328)
(2S,3S)-3-Hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester (41.9 mg, 1.6 mmol) and HATU (66.3 mg, 1.7 mmol) were dissolved in DMF (2 mL). DIEA (55 μL, 0.32 mmol) was then added, and the reaction was stirred at ambient temperature for 15 minutes. Then 4-(2-Amino-thiazol-4-yl)-N-cyclopropyl-benzamide trifluoroacetic acid salt (62.9 mg, 0.17 mmol) was added, and the reaction was stirred at ambient temperature overnight. The reaction was filtered and purified by reverse phase HPLC to give the desired product. Yield 11.8 mg. MS: 507.2 (M+H+); H1 NMR (DMSO-d6): δ(ppm) 0.50-77 (m, 4H), 1.70-2.10 (m, 2H), 4.20-4.40 (m, 1H), 4.86-5.17 (m, 2H), 7.00-7.42 (m, 4H), 7.74-8.01 (m, 5H), 8.40-8.48 (m, 1H), 12.58-12.67 (m, 1H).

reactant | (2S,3S)-3-Hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester | 1.6 mmol, 41.9 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H]([C@H](CC1)O)C(=O)O | C13H15NO5
reactant | HATU | 1.7 mmol, 66.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.32 mmol, 55 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-(2-Amino-thiazol-4-yl)-N-cyclopropyl-benzamide trifluoroacetic acid salt | 0.17 mmol, 62.9 mg | FC(C(=O)O)(F)F.NC=1SC=C(N1)C1=CC=C(C(=O)NC2CC2)C=C1
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (2S,3S)-2-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-3-hydroxy-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H]([C@H](CC1)O)C(NC=1SC=C(N1)C1=CC=C(C=C1)C(NC1CC1)=O)=O | C26H26N4O5S
